US07566781B2
Methyl 4-(diethoxyphosphorylmethyl)-3-fluorobenzenecarboxylate
A mixture of methyl 4-bromomethyl-3-fluorobenzenecarboxylate (240 mg) and triethyl phosphite (0.32 mL) was heated at 145° C. for 2 hours. The reaction solution was purified through silica gel column chromatography (ethyl acetate/methanol=9/1) to obtain the entitled compound (300 mg).

reactant | methyl 4-bromomethyl-3-fluorobenzenecarboxylate | 240 mg | BrCC1=C(C=C(C=C1)C(=O)OC)F | C9H8BrFO2
reactant | triethyl phosphite | 0.32 mL | P(OCC)(OCC)OCC | C6H15O3P
product | Methyl 4-(diethoxyphosphorylmethyl)-3-fluorobenzenecarboxylate | 300 mg | C(C)OP(=O)(OCC)CC1=C(C=C(C=C1)C(=O)OC)F | C13H18FO5P
